US06114532
4-[(5-(N-carboxymethyl-quinolin-8-yl-sulphonylamino)-1-methyl-1H-benzimidazol-2-yl)-methyl]-N'-ethyloxycarbonyl-benzamidine
Prepared analogously to Example 13 from 4-[(5-(N-ethoxycarbonylmethyl-quinolin-8-yl-sulphonylamino)-1-methyl-1H-benzimidazol-2-yl)-methyl]-N'-ethyloxycarbonyl-benzamidine-hydrochloride and sodium hydroxide in ethanol/water.

reactant | 4-[(5-(N-ethoxycarbonylmethyl-quinolin-8-yl-sulphonylamino)-1-methyl-1H-benzimidazol-2-yl)-methyl]-N'-ethyloxycarbonyl-benzamidine-hydrochloride | Cl.C(C)OC(=O)CN(C1=CC2=C(N(C(=N2)CC2=CC=C(C(=NC(=O)OCC)N)C=C2)C)C=C1)S(=O)(=O)C=1C=CC=C2C=CC=NC12
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol water | C(C)O.O
product | 4-[(5-(N-carboxymethyl-quinolin-8-yl-sulphonylamino)-1-methyl-1H-benzimidazol-2-yl)-methyl]-N'-ethyloxycarbonyl-benzamidine | C(=O)(O)CN(C1=CC2=C(N(C(=N2)CC2=CC=C(C(=NC(=O)OCC)N)C=C2)C)C=C1)S(=O)(=O)C=1C=CC=C2C=CC=NC12 | C30H28N6O6S
